US05281571
A solution of 3.4 g (0.01 mole) 4-chloro-3-(2,4-difluoro-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole in 50 mL acetic acid was heated to 80° C. under a nitrogen atmosphere. The heat and nitrogen were removed and 1.7 g (0.03 mole) iron powder was added in 3 portions over 5 min. The solution was stirred at 80° C. for an additional 30 min. The solution was cooled and filtered through Celite®. The filtrate was diluted with 100 mL water and extracted three times with ethyl acetate. The ethyl acetate extracts were washed with a saturated NaHCO3 solution, dried over anhydrous MgSO4, and concentrated in vacuo. The residue was purified chromatographically using 35% ethyl acetate in hexane as the eluent to give 2.46 g (79%) of 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-2,4-difluorobenzenamine as a white solid, mp 82° C.

reactant | 4-chloro-3-(2,4-difluoro-5-nitrophenyl)-1-methyl-5-(trifluoromethyl)-1H-pyrazole | 0.01 mole, 3.4 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=C(C=C(C(=C1)[N+](=O)[O-])F)F | C11H5ClF5N3O2
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
catalyst | iron | 0.03 mole, 1.7 g | [Fe] | Fe
product | 5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-2,4-difluorobenzenamine | 2.46 g, 79% | ClC=1C(=NN(C1C(F)(F)F)C)C=1C(=CC(=C(C1)N)F)F | C11H7ClF5N3
